Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope, bradycardia
 
Major Surgical or Invasive Procedure:
pacemaker implantation

 
History of Present Illness:
Mr. ___ is a ___ y.o. male with known CAD (s/p 4 stents during 
3 PCIs, 2 for instent thrombosis), HLD, and anxiety who presents 
from OSH after a witnessed syncopal event earlier the day of 
admission.  He reports returning to his living room after having 
a bowel movement, having a conversation with his son for ~30 
minutes and then experiencing a feeling of ___  After 
this feeling he passed out for ~30 seconds, according to his 
son, who called EMS.  Mr. ___ reports slumping forward, with 
no head injury, no jerking movements and no lip smacking.  He 
was unresponsive to his son.  He was brought by EMS to 
___ where his VS were HR 62 BP 125/88 RR 20 Sat 
98% RA.  No temperature or physical exam abnormalities were 
noted.  While at ___, his HR dropped to 22 bpm and he 
felt symptomatic (___).  Mr. ___ was given 1 mg Atropine 
x1 and his HR responded by increasing to 77, with SBPs in the 
110s-130s.  He was tranferred to ___ by ambulance, with 
reported nausea during transport (although all passengers were 
nauseated, suggesting a bumpy ride).
.
On arrival to ___, Mr. ___ had a HR of 65 with stable VS.  
He ECG showed sinus bradycardia, without any ischemic changes.  
He currently has no complaints and has not been symptomatic with 
bradycardia since arriving at ___.  
.
Of note, Mr. ___ has an extensive cardiac history and is 
followed with yearly cardiac stress tests at ___ with Dr. 
___.  He underwent LHC in ___ with PCI to the RCA and LCx, 
with subsequent instent thrombosis in ___ of that year.  He 
had a repeat catheterization done in ___ that did not show any 
thrombosis or advancement of his disease, but in ___ he had 
anginal symptoms and underwent another LHC that showed instent 
thrombosis requiring additional PCI.  
.
Additionally, Mr. ___ has a history of anxiety and he reports 
similar symptoms of ___ during these experiences.  He has 
them infrequently and they usually occur while at home.  His 
episodes resolve with rest and within ___ hours.
.
Mr. ___ does not report any recent changes in diet or fluid 
intake.  He has had no fevers or chills while at home.  He also 
denies any orthopnea, PND, or leg edema.  He has no anginal 
symptoms with exertion (he continues to work out for 60 minutes 
per day with no chest pain or shortness of breath).  This past 
weekend he was able to help a neighbor with moving without any 
light headedness, chest pain or ___ symptoms. 
 
Past Medical History:
dyslipidemia, known CAD (s/p 3 PCIs with 4 sents, complicated by 
instent thrombosis), gout, s/p inguinal and umbilical hernia 
repair
 
Social History:
___
Family History:
Significant family history of CAD and cardiac death with mother 
and father passing away in ___ of cardiac causes 
 
Physical Exam:
ADMISSION EXAM:
VS: T 98.4 HR 59 BP 129/88 Sat 99% RA 
GENERAL: well appearing, in NAD, lying comfortably in bed  
HEENT: CNII-XII intact, with MMM  
NECK: Supple with JVP ~4 cm above the clavicle  
CARDIAC: bradycardic, regular rhthym, no murmurs, normal S1/S2, 
no S3/S4  
LUNGS: lungs CTAB with no wheezes or crackles  
ABDOMEN: Soft, NTND. No abdominial bruits. +BS
EXTREMITIES: no ___ edema, no femoral bruits
PULSES:  
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+ Radial 2+
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+ Radial 2+
.
DISCHARGE EXAM:
O: VS 98.___.7 HR 55 (55-59) BP 135/77 (129-135/77-80) RR 18 
Sat 98% RA
GEN: well appearing, in NAD, lying comfortably in bed, with no 
complaints
NECK: no elevation of JVP
PULM: lungs CTAB with no crackles or wheezes
___: normal rate, sinus rhthym, no murmurs, normal S1/S2, no S3 
or S4 auscultated
CHEST: incision and pocket covered by clean dressing and 
tegederm patch, no erythema, tenderness or warmth noted
ABD: soft, NTND, +BS
EXT: no ___ edema, 2+ pulses distially in arms and legs
 
Pertinent Results:
ADMISSION LABS:
___ 11:30AM BLOOD WBC-6.3 RBC-4.48* Hgb-13.9* Hct-39.5* 
MCV-88 MCH-31.0 MCHC-35.2* RDW-13.3 Plt ___
___ 11:30AM BLOOD Glucose-119* UreaN-17 Creat-1.0 Na-139 
K-4.6 Cl-105 HCO3-25 AnGap-14
___ 11:30AM BLOOD cTropnT-<0.01
.
DISCHARGE LABS:
___ 06:50AM BLOOD WBC-7.9 RBC-4.39* Hgb-13.6* Hct-39.3* 
MCV-90 MCH-31.0 MCHC-34.6 RDW-13.4 Plt ___
___ 06:50AM BLOOD ___ PTT-24.5 ___
___ 06:50AM BLOOD Glucose-100 UreaN-24* Creat-1.0 Na-142 
K-4.3 Cl-107 HCO3-27 AnGap-12
 
Brief Hospital Course:
Mr. ___ is a ___ y.o. man with known CAD (s/p multiple PCIs and 
ISR), HLD and anxiety who presents from OSH after witnessed 
syncopal event the day of admission with associated ___ 
feeling who has remained bradycardic throughout the day, 
responsive to Atropine.  Given the absence of any lip smacking, 
jerking or loss of continence, good PO intake throughout the 
past few days, and no evidence of infection, combined with the 
responsiveness to Atropine in the ED, Mr. ___ syncopal event 
is most likely cardiogenic in nature.
.
Mr. ___ was evaluated by EP and it was determined that he 
should undergo pacemaker implantation for symptomatic 
bradycardia.  A Biotronik pacemaker was implanted without 
complication and Mr. ___ had relief of his symptoms (less 
fatigued, no ___.  Mr. ___ was restarted on his 
Metoprolol Succinate 25 mg daily after implantation, given his 
CAD.  He was given a prescription for Keflex ___ mg QID for 2 
days after implantation and will follow up in device clinic in 1 
week.
.
Regarding Mr. ___ chronic issues, he was restarted on 
Aspirin 325 mg daily for his CAD, and his Plavix and 
Atorvastatin were continued.  He was advised to stop taking 
Naprosyn after discharge, given his history of CAD.  His Zoloft 
was continued while admitted for anxiety.
.
TRANSITIONAL ISSUES:
Mr. ___ will take ___ ___ mg QID for 2 days after 
implantation and follow up in the device clinic in 1 week.  At 
that appointment he can establish care with EP. 
 
Medications on Admission:
Plavix 75 mg daily
Atorvastatin 80 mg daily
Zoloft 100 mg daily
Naprosyn PRN
 
Discharge Medications:
Plavix 75 mg daily
Atorvastatin 80 mg daily
Aspirin 325 mg daily
Zoloft 100 mg daily
Metoprolol Succinate 25 mg daily
Keflex ___ mg QID (___)
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: bradycardia
Seconday diangosis: coronary artery disease, hyperlipidemia, 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
It was a pleasure to take part in your care while you were 
admitted to the ___.  You were admitted with symptomatic 
bradycardia (low heart rate) and got a pacemaker implanted to 
help control your heart rate.  It is important to remember the 
following after your discharge:
1) Please continue to take your medications as prescribed during 
this admission and by your cardiologist.  These include:
- Aspirin 325 mg daily (INCREASED)
- Plavix 75 mg daily
- Atorvastatin 80 mg daily
- Metoprolol Succinate 25 mg daily (RESTART)
2) Please continue to take Keflex ___ mg 4x/day for the next two 
days ___ and ___.
2) You should follow up with Dr. ___ in ___ clinic after 
your discharge, as well as the device clinic.  An appointment 
has been scheduled for you and is listed below.  He will arrange 
for your pacemaker to be monitored after your discharge.  An 
appointment has also been scheduled with your PCP and is listed 
below.
 
Followup Instructions:
___